US08980934B2
C. (rac)-N-(Cyclopentyl(pyridin-2-yl)methyl)acetamide
AcCl (0.10 g, 1.25 mmol) was added to a stirred suspension of Et3N (0.35 mL, 0.25 g, 2.5 mmol, 2.2 eq.) and (rac)-1-cyclopentyl-1-(2-pyridinyl)methylamine HCl salt (0.25 g, 1.14 mmol) in CH2Cl2 (5 mL). The resulting mixture was stirred at rt for 2 h. The reaction mixture was washed with H2O (10%, 3×3 mL) and was dried over Na2SO4 and was concentrated under reduced pressure yielding the crude product (0.20 g) as a clear yellow oil which quickly crystallized. 1H NMR (300 MHz, CDCl3) δ ppm 8.53 (d, J=5.0 Hz, 1H), 7.62 (dt, J=1.5, 7.5 Hz, 1H), 7.28 (t, J=7.5 Hz, 1H), 7.16 (d, J=5.0 Hz, 1H), 6.72 (br d, J=7.0 Hz, 1H), 4.93 (t, J=9.0 Hz, 1H), 2.37-2.20 (m, 1H), 2.00 (s, 3H), 1.80-1.10 (m, 8H); HPLC: Daicel Chiralpak AD-H, 80:20 v/v heptane-EtOH (+0.2% Et2NH), 1.0 mL min−1, 210 nm, Rt=9.5 min, Rt=19.2 min.

reactant | AcCl | 1.25 mmol, 0.10 g | C(=O)(C)Cl | C2H3ClO
reactant | Et3N | 2.5 mmol, 0.35 mL, 0.25 g, 2.2 eq. | CCN(CC)CC | C6H15N
reactant | (rac)-1-cyclopentyl-1-(2-pyridinyl)methylamine HCl salt | 1.14 mmol, 0.25 g | Cl.C1(CCCC1)C(C1=NC=CC=C1)N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (rac)-N-(Cyclopentyl(pyridin-2-yl)methyl)acetamide | 0.20 g | C1(CCCC1)C(NC(C)=O)C1=NC=CC=C1 | C13H18N2O
